US09382356B2
(ii) Synthesis of 3-tert-butyl-1-ethyl-6,6-diphenylfulvene
Under a nitrogen atmosphere, a 300 ml three-neck flask equipped with a magnetic stirrer chip and a three-way cock was charged with 5.11 g (23.9 mmol) of 1-ethyl-3-tert-butylcyclopentadiene (75% GC purity) and 150 ml of THF. In the dry ice/methanol bath, 16 ml (25.2 mmol) of 1.56M n-butyllithium hexane solution was gradually added dropwise and the mixture was then stirred at room temperature for 20 hours. Then, 3.1 ml (28.8 mmol) of 1,3-dimethyl-2-imidazolidinone and 5.3 g (28.8 mmol) of benzophenone were sequentially added to the reaction solution obtained, and the solution was stirred for 48 hours under reflux. The reaction solution was poured into 100 ml of 2N hydrochloric acid. The organic layer was separated, and the aqueous layer was subjected to extraction with 50 ml of hexane twice. The organic layers obtained were combined with the organic layer previously obtained. The liquid was washed with a saturated aqueous solution of sodium hydrogencarbonate, water, and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography to obtain 4.2 g of an orange solid. The yield was 56%. Identification was done by 1H-NMR spectrum. The measurement results are shown as follows.

reactant | 1-ethyl-3-tert-butylcyclopentadiene | 23.9 mmol, 5.11 g | C(C)C1=CC(=CC1)C(C)(C)C | C11H18
reactant | dry ice methanol | C(=O)=O.CO
reactant | n-butyllithium hexane | 25.2 mmol, 1.56M, 16 ml | CCCCCC.C(CCC)[Li]
reactant | 1,3-dimethyl-2-imidazolidinone | 28.8 mmol, 3.1 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | benzophenone | 28.8 mmol, 5.3 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-tert-butyl-1-ethyl-6,6-diphenylfulvene | 4.2 g, yield was 56% | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)CC | C24H26
